US09126931B2
8-[(4R,5R)-5-(Tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furane-3-carbonitrile
Trifluoro-methanesulfonic acid 8-[(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-6,6 dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester (Compound Z14, 24 mg) was dissolved in DMF (0.5 mL), added with zinc (II) cyanide (8.2 mg) and palladium tetrakistriphenylphosphine (2.0 mg), and the mixture was stirred under heating at 200° C. for 20 min with microwave irradiation. To the reaction mixture, ethyl acetate was added and the organic layer was washed with saturated brine. Thereafter, the organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (15 mg).

reactant | Trifluoro-methanesulfonic acid 8-[(4R,5R)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-6,6 dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furan-3-yl ester | 24 mg | C(C)(C)(C)[SiH2]OC([C@H]1[C@H](OC(O1)(C)C)COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)OS(=O)(=O)C(F)(F)F)C(C2=CC1)=O)(C)C)(C)C | C32H39F3O9SSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | zinc (II) cyanide | 8.2 mg | [C-]#N.[Zn+2].[C-]#N
product | 8-[(4R,5R)-5-(Tert-butyl-dimethyl-silanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]naphth[2,3-d]furane-3-carbonitrile | 15 mg | C(C)(C)(C)[SiH2]OC([C@H]1[C@H](OC(O1)(C)C)COC=1C=C2C(C3=C(C4=C(O3)C=C(C=C4)C#N)C(C2=CC1)=O)(C)C)(C)C | C32H39NO6Si
